US05130421
1-(3,5-Anhydro-2-deoxy-β-D-threo-pentofuranosyl)thymine
3',5'-Di-O-(methanesulfonyl)thymidine (248 g, 0.62M) was added in portions to a stirred solution of sodium hydroxide (74.7 g, 1.87M) in water (1.6 L). On addition the reaction mixture became a yellow-orange solution. This stirred solution was then heated to reflux for 2 hr. the reaction mixture had cooled to room temperature, 6N hydrochloric acid (100 mL) was added. The reaction mixture was concentrated in vacuo by removing 1.3 L of water. The resulting slurry was cooled in an ice bath for 2 hr. The solid was then filtered and washed sparingly with ice water, and then vacuum dried to constant weight (103.7 g, 74%). The product 3, mp 188°-190° C. (lit. 190°-193° C.) was used without further purification. 1H NMR (360 MHz, d6 -DMSO) 11.35 (s, 1H, NH), 8.01 (s, 1H, H-6), 6.49 (q, 1H, H-1'), 5.47 (m, 1H, H-3'), 4.88 and 4.67 (m, 2H, H-5'), 4.22 (d, 1H, H-4'), 2.47 (m, 2H, H-2') 1.77 (S, 3 H, CH3). 13C NMR (75 MHz, d6 -DMSO) 163.64 (C2), 151.10 (C4), 136.57 (C6), 109.62 (C5), 88.29 (C4'), 86.85 (C1'), 79.83 (C3'), 75.14 (C5'), 37.17 (C2'), 12.33 (CH3). Analysis (C10H12N2O4) C, H, N.

reactant | 3',5'-Di-O-(methanesulfonyl)thymidine | 0.62M, 248 g | CS(=O)(=O)O[C@H]1C[C@@H](O[C@@H]1COS(=O)(=O)C)N1C(=O)NC(=O)C(C)=C1 | C12H18N2O9S2
reactant | sodium hydroxide | 1.87M, 74.7 g | [OH-].[Na+]
reactant | hydrochloric acid | 6N, 100 mL | Cl | ClH
solvent | water | 1.6 L | O | H2O
product | 1-(3,5-Anhydro-2-deoxy-β-D-threo-pentofuranosyl)thymine | [C@@H]1(C[C@@H]2[C@H](O1)CO2)N2C(=O)NC(=O)C(C)=C2 | C10H12N2O4
